US07759337B2
Synthesis of N-cyclopropyl-4-methyl-3-(1-p-tolylphthalazin-6-yl)benzamide
A mixture of 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (0.1 g, 296 μmol), p-tolyl boronic acid (40 mg, 296 μmol) and tetrakis(triphenylphosphine)palladium (17 mg, 15 μmol) in 5 mL DME/EtOH (4:1) was treated with 2 M potassium carbonate (444 μl, 888 μmol). The mixture was stirred at 90° C. for 2 h. The mixture was cooled to room temperature and purified via flash chromatography (silica gel) eluting with a gradient of 2% 2 M ammonia in MeOH/DCM to 6% 2 M ammonia in MeOH/DCM to give title compound in (95 mg) as a pale yellow solid. Found MS (ES+): 394(M+H)+.

reactant | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 296 μmol, 0.1 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
reactant | p-tolyl boronic acid | 296 μmol, 40 mg | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | potassium carbonate | 888 μmol, 2 M, 444 μl | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 15 μmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-4-methyl-3-(1-p-tolylphthalazin-6-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)C1=CC=C(C=C1)C)=O | C26H23N3O
